US07384945B2
2-Phenoxymethyl-1-(4-trifluoromethylsulfanyl-benzyl)-1H-indole-5-carboxylic acid methyl ester
30 mg of 2-phenoxymethyl-1H-indole-5-carboxylic acid methyl ester were dissolved in 1 ml of THF and treated with 5 mg NaH (60%) at 0° C. for 15 min. 1.2 eq. of 1-bromomethyl-4-trifluoromethylsulfanyl-benzene were added and the reaction stirred for 1.5 h. The solvent was evaporated and the product extracted from methylenchloride/water. The product was purified by preparative HPLC. MS(ISP): 472.5 (M+H)+.

reactant | 2-phenoxymethyl-1H-indole-5-carboxylic acid methyl ester | 30 mg | COC(=O)C=1C=C2C=C(NC2=CC1)COC1=CC=CC=C1 | C17H15NO3
reactant | NaH | 5 mg | [H-].[Na+]
reactant | 1-bromomethyl-4-trifluoromethylsulfanyl-benzene | 1.2 eq. | BrCC1=CC=C(C=C1)SC(F)(F)F | C8H6BrF3S
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-Phenoxymethyl-1-(4-trifluoromethylsulfanyl-benzyl)-1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C=C(N(C2=CC1)CC1=CC=C(C=C1)SC(F)(F)F)COC1=CC=CC=C1 | C25H20F3NO3S
